US08802661B2
Preparation of methyl 4-((1S,3aS,5aR,5bR,7aS,9S,11aS,11bR,13aR,13bR)-1-isopropyl-5a,5b,8,8,11a-pentamethyl-3a-(2-(pyridin-2-yl)ethylcarbamoyl)icosahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate. Intermediate 14
To a flask containing methyl 4-((1S,3aS,5aR,5bR,7aS,9S,11aS,11bR,13aR,13bR)-3a-(chlorocarbonyl)-1-isopropyl-5a,5b,8,8,11a-pentamethylicosahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate (77 mg, 0.13 mmol) in DCE (2 mL) was added Hunig'sBase (0.068 mL, 0.390 mmol), DMAP (1 mg, 8.19 μmol), and 2-(2-Aminoethyl)pyridine (0.031 mL, 0.260 mmol). The mixture was stirred for 2.5 hours at rt. The reaction was diluted with 5 mL of water and was extracted with dichloromethane (3×5 mL). The combined organic layers were dried with Na2SO4. The drying agent was removed by filtration and the filtrate was concentrated under reduced pressure. The residue was purified by Biotage flash chromatography using a 0-75% ethyl acetate in hexanes gradient. The fractions containing the expected product were combined and concentrated. The expected product, methyl 4-((1S,3aS,5aR,5bR,7aS,9S,11aS,11bR,13aR,13bR)-1-isopropyl-5a,5b,8,8,11a-pentamethyl-3a-(2-(pyridin-2-yl)ethylcarbamoyl)icosahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate (0.062 g, 0.091 mmol, 70.0% yield), was isolated as a white foam. LCMS: m/e 679.7 (M−H)−, 3.09 min (method 3).

reactant | methyl 4-((1S,3aS,5aR,5bR,7aS,9S,11aS,11bR,13aR,13bR)-3a-(chlorocarbonyl)-1-isopropyl-5a,5b,8,8,11a-pentamethylicosahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate | 0.13 mmol, 77 mg | ClC(=O)[C@]12[C@@H]([C@H]3CC[C@@H]4[C@]5(CC[C@@H](C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)C1=CC=C(C(=O)OC)C=C1)C)[C@@H](CC2)C(C)C | C38H55ClO3
reactant | 2-(2-Aminoethyl)pyridine | 0.260 mmol, 0.031 mL | NCCC1=NC=CC=C1 | C7H10N2
solvent | DCE | 2 mL | ClCCCl | C2H4Cl2
catalyst | DMAP | 8.19 μmol, 1 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | water | 5 mL | O | H2O
product | methyl 4-((1S,3aS,5aR,5bR,7aS,9S,11aS,11bR,13aR,13bR)-1-isopropyl-5a,5b,8,8,11a-pentamethyl-3a-(2-(pyridin-2-yl)ethylcarbamoyl)icosahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate | 0.091 mmol, 0.062 g, 70.0% yield | C(C)(C)[C@@H]1CC[C@]2([C@H]1[C@H]1CC[C@@H]3[C@]4(CC[C@@H](C([C@@H]4CC[C@]3([C@@]1(CC2)C)C)(C)C)C2=CC=C(C(=O)OC)C=C2)C)C(NCCC2=NC=CC=C2)=O | C45H64N2O3
